US05750545
(1) 5-Hydroxypentyl isothiocyanate
The synthesis method of Example 45-(1) was applied. 5-Hydroxypentylamine (6.00 g), carbon disulfide (40 ml), triethylamine (8.3 ml), ethyl chlorocarbonate (5.4 ml), triethylamine (8.3 ml) and chloroform (20 ml) were used as reagents. After the reaction, a yellow liquid was quantitatively obtained.

reactant | 5-Hydroxypentylamine | 6.00 g | OCCCCCN | C5H13NO
reactant | carbon disulfide | 40 ml | C(=S)=S | CS2
reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 5.4 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Hydroxypentyl isothiocyanate | OCCCCCN=C=S | C6H11NOS
